US07851474B2
B. 4-{1-[2-(4-Cyclopentyl-piperazin-1-yl)-2-oxo-ethyl]-piperidin-4-yl}-benzonitrile (Compound 2)
A mixture of 2-bromo-1-(4-cyclopentyl-piperazin-1-yl)-ethanone (1.2 mmol), 4-piperidin-4-yl-benzonitrile (1.2 mmol) and potassium carbonate (2.4 mmol) in acetonitrile (10 mL) is stirred at rt overnight. The solvent is removed in vacuo and to the residue is added DCM (40 mL) and aqueous sodium bicarbonate (15 mL). The layers are separated and aqueous layer is extracted with DCM (15 mL). The combined organic layers are dried (MgSO4) and solvent removed in vacuo to give the crude product, which is purified by PTLC (5% MeOH in DCM) to give the title compound. 1H NMR (CDCl3) δ 7.59 (2H, d), 7.32 (2H, d), 3.64 (4H, br,), 3.22 (2H, s), 3.01 (2H, br), 2.40˜2.62 (6H, m), 2.21 (2H, dt), 0.80˜1.95 (12H, m); LC-MS (M+1) 381.

reactant | 2-bromo-1-(4-cyclopentyl-piperazin-1-yl)-ethanone | 1.2 mmol | BrCC(=O)N1CCN(CC1)C1CCCC1 | C11H19BrN2O
reactant | 4-piperidin-4-yl-benzonitrile | 1.2 mmol | N1CCC(CC1)C1=CC=C(C#N)C=C1 | C12H14N2
reactant | potassium carbonate | 2.4 mmol | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 4-{1-[2-(4-Cyclopentyl-piperazin-1-yl)-2-oxo-ethyl]-piperidin-4-yl}-benzonitrile | C1(CCCC1)N1CCN(CC1)C(CN1CCC(CC1)C1=CC=C(C#N)C=C1)=O | C23H32N4O
